US07405221B2
2,4-Dichlorobenzyl bromide
To a 500 mL round bottom flask fitted with a Teflon magnetic stirrer was added 2,4-dichlorotoluene (Aldrich) (14.4 g, 90 mmol) in 300 mL glacial acetic acid. To this was added sodium bromide (9.4 g, 92 mmol) and anhydrous ceric ammonium nitrate (100 g, 182 mmol) and the reaction mixture was heated at 80° C. for 2.5 h. The reaction mixture was then poured into 1000 g of ice and water. The slurry was extracted with ether (3×200 mL) and the combined ether layers were washed with saturated aqueous sodium bicarbonate. The organic layer was dried over MgSO4, filtered, and the solvent removed under reduced pressure. The crude product was chromatographed by flash column chromatography on silica gel (eluted with 100% hexanes) and the desired product obtained. 1H-NMR 500 MHz (CDCl3): δ 4.58 (s, 2H), 7.28 (m, 1H), 7.43 (m, 2H),

reactant | 2,4-dichlorotoluene | 90 mmol, 14.4 g | ClC1=C(C=CC(=C1)Cl)C | C7H6Cl2
reactant | sodium bromide | 92 mmol, 9.4 g | [Br-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2,4-Dichlorobenzyl bromide | ClC1=C(CBr)C=CC(=C1)Cl | C7H5BrCl2
